US09212165B2
Step 5: tert-Butyl 5-ethynylbicyclo[3.2.1]octan-1-ylcarbamate
To a solution of tert-butyl 5-formylbicyclo[3.2.1]octan-1-ylcarbamate (6.4 g, 25.3 mmol) and K2CO3 (7.1 g, 50.6 mmol) in methanol (200 mL) under N2 was added dimethyl 1-diazo-2-oxopropylphosphonate (6.0 g, 30.3 mmol). After stirring at room temperature for three hours, the reaction mixture became a clear solution. Ethyl acetate (300 mL) and 5% NaHCO3 (300 mL) were added. Aqueous layer was extracted with ethyl acetate (2×200 mL). The organic layers were combined, washed with brine, dried over Na2SO4 and concentrated under reduced pressure to give 5.8 g (90%) the crude title compound, tert-butyl 5-ethynylbicyclo[3.2.1]octan-1-ylcarbamate, as colorless oil. ESI-MS m/z: 194 (M-55)+.

reactant | tert-butyl 5-formylbicyclo[3.2.1]octan-1-ylcarbamate | 25.3 mmol, 6.4 g | C(=O)C12CCCC(CC1)(C2)NC(OC(C)(C)C)=O | C14H23NO3
reactant | K2CO3 | 50.6 mmol, 7.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl 1-diazo-2-oxopropylphosphonate | 30.3 mmol, 6.0 g | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
solvent | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 5-ethynylbicyclo[3.2.1]octan-1-ylcarbamate | 5.8 g, 90% | C(#C)C12CCCC(CC1)(C2)NC(OC(C)(C)C)=O | C15H23NO2
